* CELL-0
VTOP V_TOP 0 DC 9
R1 V_TOP DB 10k
R2 V_TOP DC 10k
R3 GB 0 100k
R4 GC 0 100k
C1 V_TOP 0 100n
* Q1 Q2 2N7000: drain gate source
MQ1 DB GB CENTER 2N7000
MQ2 DC GC CENTER 2N7000
* core is on CENTER; not in this DC netlist
